US08114872B2
2-Fluoro-5-methoxymethoxy-pyridine
Add 6-fluoro-pyridin-3-ol (3.5 g, 30.95 mmol) to a suspension of sodium hydride (1.49 g, 37.1 mmol) in DMF (20 mL). Stir the mixture for 1 h. Add chloromethyl methyl ether (2 g, 25.0 mmol). Stir the mixture at RT overnight. Dilute the mixture with ethyl acetate and water. Wash the organic layer with water and aqueous saturated sodium chloride. Dry the mixture over sodium sulfate. Concentrate the solution in vacuo to a brown oil. Purify by column chromatography (10% ethyl acetate in hexane) to afford the title compound (4.30 g, 88%) as yellow oil. 1H NMR (400 MHz, CDCl3) δ 3.48 (s, 3H), 5.15 (s, 2H), 6.85 (dd, J=3.6 Hz, J=8.8 Hz, 1H), 7.47 (m, 1H), 7.96 (m, 1H).

reactant | 6-fluoro-pyridin-3-ol | 30.95 mmol, 3.5 g | FC1=CC=C(C=N1)O | C5H4FNO
reactant | sodium hydride | 37.1 mmol, 1.49 g | [H-].[Na+]
reactant | chloromethyl methyl ether | 25.0 mmol, 2 g | COCCl | C2H5ClO
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-Fluoro-5-methoxymethoxy-pyridine | 4.30 g, 88% | FC1=NC=C(C=C1)OCOC | C7H8FNO2
